US07173040B2
4-(3-chlorophenyl)-6-[(4-chlorophenyl)hydroxy(4-methyl-4H-1,2,4-triazol-3-yl)methyl]-1-methyl-2(1H)-quinolinone (0.012 mol) (described in Example B13) was added portionwise at 5° C. to thionyl chloride (6 ml). The mixture was stirred at room temperature for 4 hours. The solvent was evaporated till dryness. The product was used without further purification in the next reaction step, yielding 6-[chloro(4-chlorophenyl)(4-methyl-4H-1,2,4-triazol-3-yl)methyl]-4-(3-chlorophenyl)-1-methyl-2(1H)-quinolinone.

reactant | 4-(3-chlorophenyl)-6-[(4-chlorophenyl)hydroxy(4-methyl-4H-1,2,4-triazol-3-yl)methyl]-1-methyl-2(1H)-quinolinone | 0.012 mol | ClC=1C=C(C=CC1)C1=CC(N(C2=CC=C(C=C12)C(C1=NN=CN1C)(O)C1=CC=C(C=C1)Cl)C)=O | C26H20Cl2N4O2
reactant | thionyl chloride | 6 ml | S(=O)(Cl)Cl | Cl2OS
product | 6-[chloro(4-chlorophenyl)(4-methyl-4H-1,2,4-triazol-3-yl)methyl]-4-(3-chlorophenyl)-1-methyl-2(1H)-quinolinone | ClC(C=1C=C2C(=CC(N(C2=CC1)C)=O)C1=CC(=CC=C1)Cl)(C1=NN=CN1C)C1=CC=C(C=C1)Cl | C26H19Cl3N4O
